* C:\Users\hi\Desktop\Clock-Multiplier\Simulation\Clock-Multiplier.asc
V1 VDD 0 1.8
V2 CLK1 0 PULSE(0 1.8 0 0 0 2u 4u)
M21 VDD QCLK1 N034 N029 TSMC180nmP
M22 N034 QCLK2 0 N039 TSMC180nmN
M23 N047 CLK2 N057 N052 TSMC180nmP
M24 N057 CLK2 N067 N062 TSMC180nmN
M25 N048 N057 N058 N053 TSMC180nmP
M26 N058 N057 N068 N063 TSMC180nmN
M27 N049 N058 N059 N054 TSMC180nmP
M28 N059 N058 N069 N064 TSMC180nmN
M29 N050 N059 N060 N055 TSMC180nmP
M30 N060 N059 N070 N065 TSMC180nmN
M31 N051 N060 CLK2 N056 TSMC180nmP
M32 CLK2 N060 N071 N066 TSMC180nmN
M33 VDD N040 N047 N042 TSMC180nmP
M34 VDD N040 N048 N043 TSMC180nmP
M35 VDD N040 N049 N044 TSMC180nmP
M36 VDD N040 N050 N045 TSMC180nmP
M37 VDD N040 N051 N046 TSMC180nmP
M38 N068 Vcont 0 N073 TSMC180nmN
M39 N069 Vcont 0 N074 TSMC180nmN
M40 N070 Vcont 0 N075 TSMC180nmN
M41 N071 Vcont 0 N076 TSMC180nmN
M42 VDD N040 N040 N041 TSMC180nmP
M43 N040 Vcont 0 N061 TSMC180nmN
M44 N067 Vcont 0 N072 TSMC180nmN
M1 VDD VDD P001 N001 TSMC180nmP
M2 P001 CLK1 N011 N010 TSMC180nmP
M3 N011 VDD 0 N016 TSMC180nmN
M4 P002 CLK1 0 N017 TSMC180nmN
M5 N005 N011 P002 N012 TSMC180nmN
M6 VDD CLK1 N005 N002 TSMC180nmP
M7 P003 N005 0 N018 TSMC180nmN
M8 N009 CLK1 P003 N013 TSMC180nmN
M9 VDD N005 N009 N003 TSMC180nmP
M10 VDD ~Reset N009 N004 TSMC180nmP
M11 VDD N009 QCLK1 N006 TSMC180nmP
M12 QCLK1 N009 0 N015 TSMC180nmN
M13 VDD VDD P004 N020 TSMC180nmP
M14 P004 CLK2 N030 N027 TSMC180nmP
M15 N030 VDD 0 N036 TSMC180nmN
M16 P005 CLK2 0 N037 TSMC180nmN
M17 N024 N030 P005 N031 TSMC180nmN
M18 VDD CLK2 N024 N021 TSMC180nmP
M19 P006 N024 0 N038 TSMC180nmN
M20 N026 CLK2 P006 N032 TSMC180nmN
M45 VDD N024 N026 N022 TSMC180nmP
M46 VDD ~Reset N026 N023 TSMC180nmP
M47 VDD N026 QCLK2 N025 TSMC180nmP
M48 QCLK2 N026 0 N033 TSMC180nmN
M49 VDD QCLK1 ~Reset N007 TSMC180nmP
M50 VDD QCLK2 ~Reset N008 TSMC180nmP
M51 ~Reset QCLK1 P007 N014 TSMC180nmN
M52 P007 QCLK2 0 N019 TSMC180nmN
R1 N035 N034 10000
C1 N035 0 10n
C2 N057 0 10p
C3 N058 0 10p
C4 N059 0 10p
C5 N060 0 10p
C6 CLK2 0 10p
C7 N034 0 10n
XU1 N035 N028 Vpos Vneg Vcont AD549
V3 Vpos 0 5
V4 Vneg 0 -5
R2 N028 0 1k
R3 Vcont N028 99k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hi\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL TSMC180nmN NMOS (                                LEVEL   = 7
+VERSION = 3.1            TNOM    = 27             TOX     = 4.1E-9
+XJ      = 1E-7           NCH     = 2.3549E17      VTH0    = 0.354505
+K1      = 0.5733393      K2      = 3.177172E-3    K3      = 27.3563303
+K3B     = -10            W0      = 2.341477E-5    NLX     = 1.906617E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 1.6751718      DVT1    = 0.4282625      DVT2    = 0.036004
+U0      = 327.3736992    UA      = -4.52726E-11   UB      = 4.46532E-19
+UC      = -4.74051E-11   VSAT    = 8.785346E4     A0      = 1.6897405
+AGS     = 0.2908676      B0      = -8.224961E-9   B1      = -1E-7
+KETA    = 0.021238       A1      = 8.00349E-4     A2      = 1
+RDSW    = 105            PRWG    = 0.5            PRWB    = -0.2
+WR      = 1              WINT    = 0              LINT    = 1.351737E-8
*+XL      = -2E-8          XW      = -1E-8
+ DWG     = 1.610448E-9
+DWB     = -5.108595E-9   VOFF    = -0.0652968     NFACTOR = 2.4901845
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.0231564      ETAB    = -0.058499
+DSUB    = 0.9467118      PCLM    = 0.8512348      PDIBLC1 = 0.0929526
+PDIBLC2 = 0.01           PDIBLCB = -0.1           DROUT   = 0.5224026
+PSCBE1  = 7.979323E10    PSCBE2  = 1.522921E-9    PVAG    = 0.01
+DELTA   = 0.01           RSH     = 6.8            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 7.7E-10        CGSO    = 7.7E-10        CGBO    = 1E-12
+CJ      = 1.010083E-3    PB      = 0.7344298      MJ      = 0.3565066
+CJSW    = 2.441707E-10   PBSW    = 0.8005503      MJSW    = 0.1327842
+CJSWG   = 3.3E-10        PBSWG   = 0.8005503      MJSWG   = 0.1327842
+CF      = 0              PVTH0   = 1.307195E-3    PRDSW   = -5
+PK2     = -1.022757E-3   WKETA   = -4.466285E-4   LKETA   = -9.715157E-3
+PU0     = 12.2704847     PUA     = 4.421816E-11   PUB     = 0
+PVSAT   = 1.707461E3     PETA0   = 1E-4           PKETA   = 2.348777E-3     )
.MODEL TSMC180nmP PMOS (                                LEVEL   = 7
+VERSION = 3.1            TNOM    = 27             TOX     = 4.1E-9
+XJ      = 1E-7           NCH     = 4.1589E17      VTH0    = -0.4120614
+K1      = 0.5590154      K2      = 0.0353896      K3      = 0
+K3B     = 7.3774572      W0      = 1E-6           NLX     = 1.103367E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 0.4301522      DVT1    = 0.2156888      DVT2    = 0.1
+U0      = 128.7704538    UA      = 1.908676E-9    UB      = 1.686179E-21
+UC      = -9.31329E-11   VSAT    = 1.658944E5     A0      = 1.6076505
+AGS     = 0.3740519      B0      = 1.711294E-6    B1      = 4.946873E-6
+KETA    = 0.0210951      A1      = 0.0244939      A2      = 1
+RDSW    = 127.0442882    PRWG    = 0.5            PRWB    = -0.5
+WR      = 1              WINT    = 5.428484E-10   LINT    = 2.468805E-8
*+XL      = -2E-8          XW      = -1E-8
+DWG     = -2.453074E-8
+DWB     = 6.408778E-9    VOFF    = -0.0974174     NFACTOR = 1.9740447
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.1847491      ETAB    = -0.2531172
+DSUB    = 1.5            PCLM    = 4.8842961      PDIBLC1 = 0.0156227
+PDIBLC2 = 0.1            PDIBLCB = -1E-3          DROUT   = 0
+PSCBE1  = 1.733878E9     PSCBE2  = 5.002842E-10   PVAG    = 15
+DELTA   = 0.01           RSH     = 7.7            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 7.11E-10       CGSO    = 7.11E-10       CGBO    = 1E-12
+CJ      = 1.179334E-3    PB      = 0.8545261      MJ      = 0.4117753
+CJSW    = 2.215877E-10   PBSW    = 0.6162997      MJSW    = 0.2678074
+CJSWG   = 4.22E-10       PBSWG   = 0.6162997      MJSWG   = 0.2678074
+CF      = 0              PVTH0   = 2.283319E-3    PRDSW   = 5.6431992
+PK2     = 2.813503E-3    WKETA   = 2.438158E-3    LKETA   = -0.0116078
+PU0     = -2.2514581     PUA     = -7.62392E-11   PUB     = 4.502298E-24
+PVSAT   = -50            PETA0   = 1E-4           PKETA   = -1.047892E-4    )
.tran 0 1 0
* Current Starved Ring Oscillator
* Phase Frequency Detector (Dual D Type)
* Charge Pump
* Low Pass Filter and Amplifier
.lib ADI1.lib
.backanno
.end
